US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.70 g) and [(4-methoxyphenyl)methyl](4-methoxyphenyl)amine (0.97 g) as starting materials, N-[(4-methoxyphenyl)methyl]-N-(4-methoxyphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.33 g) was obtained.

reactant | 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.70 g | C1(CCCC2=CC=CC=C12)C(=O)O | C11H12O2
reactant | [(4-methoxyphenyl)methyl](4-methoxyphenyl)amine | 0.97 g | COC1=CC=C(C=C1)CNC1=CC=C(C=C1)OC | C15H17NO2
product | N-[(4-methoxyphenyl)methyl]-N-(4-methoxyphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.33 g | COC1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=CC=C12)C1=CC=C(C=C1)OC | C26H27NO3
